US09382273B2
Synthesis of 2-(3-(3-bromophenoxy)phenoxy)pyridine
Under a nitrogen atmosphere, a pressure vessel was charged with a magnetic stir bar, 3-(pyridin-2-yloxy)phenol (50 mmol), 2,6-dibromopyridine (50 mmol), 1-methylimidazole (25 mmol), and potassium carbonate (100 mmol). Toluene (80 mL) was added and bubbled with nitrogen for 20 minutes before copper(I) iodide (5 mmol) was added and the solution bubbled for 10 minutes further. The vessel was sealed and heated to 140° C. while stirring. After 2 days, the solution was allowed to cool and the solids were filtered off and rinsed with dichloromethane. The filtrate was added to a separatory funnel containing DCM and water. The water phase was washed 3 times with 75 mL DCM, and the combined organic layers were washed once with pure water. The organic layer was collected, dried with magnesium sulfate, filtered, and the filtrate reduced by rotary evaporation. The resulting oil was purified by column chromatography using DCM over silica resulting in the pure product 2-(3-(3-bromophenoxy)phenoxy)pyridine with a 60% yield. 1H NMR (CDCl3): 6.80-6.85 (m, 2H), 6.91 (s, 1H), 6.94 (s, 1H), 6.97-7.03 (m, 2H), 7.19 (vt, 1H), 7.21-7.24 (m, 2H), 7.36 (vt, 1H), 7.70 (dd, 1H), 8.21 (dd, 1H).

reactant | 3-(pyridin-2-yloxy)phenol | 50 mmol | N1=C(C=CC=C1)OC=1C=C(C=CC1)O | C11H9NO2
reactant | 2,6-dibromopyridine | 50 mmol | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 1-methylimidazole | 25 mmol | CN1C=NC=C1 | C4H6N2
reactant | potassium carbonate | 100 mmol | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 5 mmol | [Cu]I
solvent | Toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-(3-bromophenoxy)phenoxy)pyridine | 60% yield | BrC=1C=C(OC=2C=C(OC3=NC=CC=C3)C=CC2)C=CC1 | C17H12BrNO2
